US04102701
A solution of 4-t-butylcyclohexanone (15.4g) and crushed KOH (0.5g) in tert.butanol (62.4g) was stirred and kept at or below 30° C. while acrylonitrile (21.2g) was added dropwise. During the addition a solid began to precipitate. When addition was complete the thick slurry was stirred for a further hour before the solid was collected by filtration. The solid was washed with water, then crystallised from 2-ethoxyethanol to yield 27.5g of 4-t-butyl-2,2,6,6-tetra(β-cyanoethyl)cyclohexanone, m.p. 175°-178° C.

reactant | 4-t-butylcyclohexanone | 15.4g | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | KOH | 0.5g | [OH-].[K+]
reactant | acrylonitrile | 21.2g | C(C=C)#N | C3H3N
solvent | tert.butanol | 62.4g | C(C)(C)(C)O | C4H10O
product | 4-t-butyl-2,2,6,6-tetra(β-cyanoethyl)cyclohexanone | 27.5g | C(C)(C)(C)C1CC(C(C(C1)(CCC#N)CCC#N)=O)(CCC#N)CCC#N | C22H30N4O
